* source UCC23513_TRANS
X_U1         N00097 0 0 N00419 0 N00789 UCC23513_TRANS
R_R1         N00261 N00097  150 TC=0,0 
V_V1         N00419 0 15Vdc
V_V2         N00261 0  
+PULSE 0 5 0 1n 1n 5u 10u
R_R2         N00789 N00953  150 TC=0,0 
C_C2         0 N00419  100n  TC=0,0 
C_C3         0 N00419  4.7u  TC=0,0 
C_C5         0 0  4.7u  TC=0,0 
C_C4         0 0  100n  TC=0,0 
C_C6         0 N00419  100n  TC=0,0 
D_D2         N00953 N00789 NSR20F30NXT5G 
R_R3         0 N00953  10k TC=0,0 
